US07884101B2
To a solution of 1-[3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-hydroxy-phenyl]-3-(4-chloro-phenyl)-urea (0.1 g, 0.24 mmol), 4-(2-hydroxyethyl)-pyridine (0.0443 g, 0.36 mmol), and triphenylphosphine (0.0944 g, 0.36 mmol) in 10 mL of dry THF was added diisopropylazo-dicarboxylate (0.0728 g, 0.36 mmol) at ambient temperature. The mixture was stirred for 2 hours. Next, additional triphenylphosphine (0.0944 g, 0.36 mmol), 4-(2-hydroxyethyl)-pyridine (0.0443 g, 0.36 mmol), and diisopropylazodicarboxylate were added and the reaction mixture further stirred at room temperature overnight. The solvent from the reaction mixture was evaporated and the crude residue was dissolved in 5.0 mL of DMSO and purified by RP-HPLC. The proper fractions were collected and concentrated to ¼ volume. The aqueous solution was neutralized with 1N NaOH and extracted with ethyl acetate (2×, 59 mL). The organic layer was dried with sodium sulfate, filtered and evaporated to dryness to afford 1-[3-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-pyridin-4-yl-ethoxy)-phenyl]-3-(4-chloro-phenyl)-urea as a brown solid in 44% yield. LCMS m/z (%)=526 (M+H 79Br, 100), 528 (M+H 81Br, 67). 1H NMR (DMSO-d6) δ: 9.33 (bs, 1H), 9.24 (bs, 1H), 8.39 (dd, J=4.44 and 1.48 Hz, 2H), 7.63 (d, J=7.28 Hz, 1H), 7.59 (s, 1H), 7.56 (dd, J=8.94 and 2.71 Hz, 2H), 7.48 (m, 1H), 7.34 (d, J=2.67, 1H), 7.31 (d, J=2.67, 1H), 7.28 (dd, J=6.88 and 4.87 Hz, 2H), 7.14 (d, J=9.05 Hz, 1H), 7.09 (d, J=5.93 Hz, 1H), 4.01-4.2 (m, 2H), 3.48 (s, 3H), 2.96-2.91 (m, 2H).

reactant | 1-[3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-hydroxy-phenyl]-3-(4-chloro-phenyl)-urea | 0.24 mmol, 0.1 g | BrC1=C(N(N=C1)C)C=1C=C(C=CC1O)NC(=O)NC1=CC=C(C=C1)Cl | C17H14BrClN4O2
reactant | 4-(2-hydroxyethyl)-pyridine | 0.36 mmol, 0.0443 g | OCCC1=CC=NC=C1 | C7H9NO
reactant | triphenylphosphine | 0.36 mmol, 0.0944 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.36 mmol, 0.0944 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)-pyridine | 0.36 mmol, 0.0443 g | OCCC1=CC=NC=C1 | C7H9NO
reactant | diisopropylazodicarboxylate | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[3-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-pyridin-4-yl-ethoxy)-phenyl]-3-(4-chloro-phenyl)-urea | 44% yield | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCC1=CC=NC=C1)NC(=O)NC1=CC=C(C=C1)Cl | C24H21BrClN5O2
